US09227975B2
Preparation of 6-(2-(3-fluorophenyl)piperidin-1-yl)imidazo[1,2-b]pyridazin-3-amine
A mixture of 6-(2-(3-fluorophenyl)piperidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine (50 mg, 0.146 mmol) and SnCl2 dihydrate (165 mg, 0.732 mmol) in 5 mL EtOH was first stirred at 70° C. for 30 minutes, then cooled to ambient temperature and concentrated. EtOAc and water (10 mL each) were added to the solid residue, followed by Na2CO3 aqueous solution (2 mL×2 N) to obtain a phase break. The organic layer was separated, and the aqueous layer was extracted with EtOAc (3×10 mL). The combined organic layers was dried with Na2SO4 and concentrated to provide the product for the next step.

reactant | 6-(2-(3-fluorophenyl)piperidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine | 0.146 mmol, 50 mg | FC=1C=C(C=CC1)C1N(CCCC1)C=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C17H16FN5O2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 6-(2-(3-fluorophenyl)piperidin-1-yl)imidazo[1,2-b]pyridazin-3-amine | FC=1C=C(C=CC1)C1N(CCCC1)C=1C=CC=2N(N1)C(=CN2)N | C17H18FN5
